US03997603
To 32 parts 4-bromomethyl-2,5-diisopropylbenzenesulfonamide in 100 parts dimethylsulfoxide is added 10 parts sodium cyanide. The reaction is heated at 65°-70° for 30 minutes and then poured into ice water to give 4-cyanomethyl-2,5-diisopropylbenzenesulfonamide. Purification is accomplished by recrystallization or chromatography on Florisil, silica gel, alumina, etc., but the relatively pure reaction product is useful in the compositions and methods of this invention without purification.

reactant | 4-bromomethyl-2,5-diisopropylbenzenesulfonamide | BrCC1=CC(=C(C=C1C(C)C)S(=O)(=O)N)C(C)C | C13H20BrNO2S
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-cyanomethyl-2,5-diisopropylbenzenesulfonamide | C(#N)CC1=CC(=C(C=C1C(C)C)S(=O)(=O)N)C(C)C | C14H20N2O2S
